US05200553
Ethylidene dibutyrate
To ice-cooled BF3 -etherate (8.66 g.. 61 mmol.) is added dropwise via a syringe, over one hour, a mixture of butyric anhydride (6.58 g., 41.6 mmol.) and acetaldehyde (1.22 g., 27.7 mmol.). The reaction mixture is stirred for an additional 2 hours, 10% aq. sodium acetate solution (28 ml.) is added, and the mixture again stirred for 45 minutes. The oily layer is extracted into ether (2×25 ml.), and the combined ethereal extracts are washed with saturated aqueous sodium bicarbonate solution until no further evolution of CO2 is observed. The organic phase is then washed with water, dried over magnesium sulfate, filtered, concentrated and the residue is fractionally distilled at 8-12 mm. Hg, the fraction distilling at up to 62° C. being collected. Yield 2.18 g. (39%). 1H H-NMR ppm (CDCl3): 6.88 (q. J=5.6 Hz, 1H), 2.30 (dt, J=0.75, 7.5 Hz. 4H), 1.65 (sextet. J=7.5 Hz. 4H). 1.47 (d. J=5.5 Hz, 3H). 0.95 (t, J=7.5 Hz, 6H).

reactant | BF3 | 61 mmol, 8.66 g | B(F)(F)F | BF3
reactant | butyric anhydride | 41.6 mmol, 6.58 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | acetaldehyde | 27.7 mmol, 1.22 g | C(C)=O | C2H4O
reactant | sodium acetate | 28 ml | C(C)(=O)[O-].[Na+]
product | Ethylidene dibutyrate | C(CCC)(=O)OC(C)OC(CCC)=O | C10H18O4
